2100-11-07 06:52:00 Physician Resident Progress Note
Chief Complaint: s/p fall
   24 Hour Events:
   dilantin d/c'd. vanc trough slightly low, 9.1. small amount hematuria,
   sent for UA/cx, but cleared.
   History obtained from Family / [**Hospital 75**] Medical records
   Patient unable to provide history: Encephalopathy, [**Doctor First Name **]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2100-11-6**] 08:00 PM
   Ciprofloxacin - [**2100-11-6**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2100-11-6**] 11:54 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2100-11-6**] 11:03 PM
   Heparin Sodium (Prophylaxis) - [**2100-11-6**] 11:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds, No(t) Parenteral nutrition
   Genitourinary: Foley, hematuria
   Flowsheet Data as of  [**2100-11-7**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.6
C (99.7
   HR: 65 (65 - 101) bpm
   BP: 126/49(74) {98/48(74) - 184/94(125)} mmHg
   RR: 24 (15 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.9 kg (admission): 88.2 kg
   Height: 70 Inch
                  Total In:
                                                                  3,090 mL
                                                                    442 mL
   PO:
                  TF:
                                                                  1,560 mL
                                                                    442 mL
   IVF:
                                                                  1,200 mL
   Blood products:
   Total out:
                                                                  2,880 mL
                                                                    780 mL
   Urine:
                                                                  2,880 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    210 mL
                                                                   -338 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Skin:  Not assessed         Stable LUE weakness.   Brighter.  No
   commands
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful/sometimes not, No(t) Sedated, Tone: Normal, only
   intermittantly
   Labs / Radiology
   334 K/uL
   12.1 g/dL
   136 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.8 mEq/L
   14 mg/dL
   105 mEq/L
   139 mEq/L
   34.4 %
   10.8 K/uL
        [image002.jpg]
                             [**2100-11-2**]  02:59 AM
                             [**2100-11-3**]  01:53 AM
                             [**2100-11-4**]  02:31 AM
                             [**2100-11-4**]  08:00 AM
                             [**2100-11-5**]  03:32 AM
                             [**2100-11-5**]  07:26 AM
                             [**2100-11-5**]  04:21 PM
                             [**2100-11-6**]  03:20 AM
                             [**2100-11-6**]  03:30 AM
                             [**2100-11-7**]  02:29 AM
   WBC
   11.7
   12.6
   12.2
   10.4
   10.8
   Hct
   33.9
   35.1
   33.8
   33.8
   34.4
   Plt
   [**Telephone/Fax (3) 3425**]82
   334
   Cr
   0.7
   0.6
   0.7
   0.8
   0.7
   TropT
   1.02
   0.73
   TCO2
   28
   29
   28
   31
   Glucose
   98
   129
   110
   128
   139
   136
   Other labs: PT / PTT / INR:14.5/26.4/1.3, CK / CKMB /
   Troponin-T:248/6/0.73, Differential-Neuts:92.0 %, Lymph:4.5 %, Mono:3.1
   %, Eos:0.2 %, Albumin:3.8 g/dL, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 FACIAL / ORBITAL FRACTURE (BLOWOUT, LEFORT)
   zygomatic arch
 FRACTURE, OTHER
   L 4th rib
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SUBARACHNOID HEMORRHAGE (SAH)
   ASSESSMENT AND PLAN:  72 yo M w/ ? syncope and fall w/ resulting SAH,
   zygomatic arch fx and rib fx, w/ MRI showing [**Doctor First Name **].
   NEUROLOGIC: Traumatic SAH, completed dilantin prophy, keep SBP <140
   nsgy recs re: anticoag 7 days after bleed (if use hep no bolus and PTT
   50-70)
   Pain: morphine prn
   CARDIOVASCULAR: CAD - syncope/?NSTEMI, on lopressor, statin, ACE-I,
   ASA. HR and BP stable on regimen.
   cards recs: no cath for now, con't above Rx
   PULMONARY: Currently being treated for PNA, tolerating trach mask,
   continues to have large amounts of mucous production will need frequent
   suctioning
   GI / ABD: PEG placed [**11-4**]
   NUTRITION: cont TF's@goal
   RENAL: Adequate urine output, Cr stable, f/u UA/Cx
   HEMATOLOGY: Hematocrit stable
   ENDOCRINE: RISS
   ID: Afebrile, WBC 10, currently on Vanc/Cipro/Zosyn for [**Last Name (LF) 3396**], [**First Name3 (LF) **]
   follow up cultures and taper antibiotics accordingly
   LINES/TUBES/DRAINS: Trach, PEG, A-line, PIV, Foley
   WOUNDS: none
   IMAGING: None
   FLUIDS: none
   CONSULTS:  NSGY signed off, cards c/s,
   BILLING DIAGNOSIS:
   ICU CARE:
   GLYCEMIC CONTROL: RISS
   PROPHYLAXIS:
   DVT - SQH, boots
   STRESS ULCER - Famotidine
   [**First Name3 (LF) 3396**] BUNDLE-  yes
   COMMUNICATIONS:
   ICU Consent:  in chart
   CODE STATUS:  full
   DISPOSITION:  ICU, plans for rehab
   ICU Care
   Nutrition:
   Replete (Full) - [**2100-11-6**] 10:12 PM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2100-10-29**] 04:31 PM
   20 Gauge - [**2100-11-5**] 03:04 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   [**Year (4 digits) 3396**]: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU, screening for rehab